US06114325
[2-[[N-[2-(Diisopropylamino)ethyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide hydrochloride (Compound 31)
4N Hydrochloric acid--ethyl acetate solution (0.20 ml) was added to a solution of [2-[[N-[2-(diisopropylamino)ethyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide (0.44 g) in ethyl acetate (5 ml) at room temperature. After being stirred for 15 minutes, the reaction mixture was concentrated. The residue was recrystallized from ethyl acetate-ethanol mixed solvent, thereby yielding 0.37 g of the aimed compound as white crystals.

reactant | Hydrochloric acid | 4N | Cl | ClH
reactant | [2-[[N-[2-(diisopropylamino)ethyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide | 0.44 g | C(C)(C)N(CCNC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCCCC)C(C)C | C35H63N3O3
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.20 ml | C(C)(=O)OCC | C4H8O2
product | [2-[[N-[2-(Diisopropylamino)ethyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide hydrochloride | 0.37 g | Cl.C(C)(C)N(CCNC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCCCC)C(C)C | InChI=1S/C35H63N3O3.ClH/c1-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-23-27-37(30-39)34-25-22-21-24-33(34)29-41-35(40)36-26-28-38(31(2)3)32(4)5;/h21-22,24-25,30-32H,6-20,23,26-29H2,1-5H3,(H,36,40);1H
